US07157487B2
In THF (19 ml) was dissolved ethyl (5-chloro-2-fluoro-4-((4-fluoro-1-methyl-3-indolylcarbonyl)amino)phenyl)acetate (762 mg, 1.87 mmol). To the resulting solution was added 0.25N NaOH (11.2 ml, 2.81 mmol) and the mixture was stirred at room temperature for 3 hours. The reaction mixture was poured into 1N HCl (3.0 ml). The crystals thus precipitated were collected by filtration under reduced pressure, washed with water, and dried under reduced pressure to give (5-chloro-2-fluoro-4-((4-fluoro-1-methyl-3-indolylcarbonyl)amino)phenyl)acetic acid (698 mg, 99%) as a purple solid.

reactant | ethyl (5-chloro-2-fluoro-4-((4-fluoro-1-methyl-3-indolylcarbonyl)amino)phenyl)acetate | 1.87 mmol, 762 mg | ClC=1C(=CC(=C(C1)CC(=O)OCC)F)NC(=O)C1=CN(C2=CC=CC(=C12)F)C | C20H17ClF2N2O3
reactant | NaOH | 2.81 mmol, 0.25N, 11.2 ml | [OH-].[Na+]
reactant | HCl | 1N, 3.0 ml | Cl | ClH
solvent | THF | 19 ml | C1CCOC1 | C4H8O
product | (5-chloro-2-fluoro-4-((4-fluoro-1-methyl-3-indolylcarbonyl)amino)phenyl)acetic acid | 698 mg, 99% | ClC=1C(=CC(=C(C1)CC(=O)O)F)NC(=O)C1=CN(C2=CC=CC(=C12)F)C | C18H13ClF2N2O3
